US03993604
4-Isopropyl-cyclohexylmethanol
10 g of 4-isopropenyl-cyclohex-1-enylmethanol dissolved in 200 ml of ethanol were hydrogenated at atmospheric pressure in the presence of 200 mg of Raney nickel. The reaction mixture was then filtered, evaporated and finally subjected to a fractional distillation. It was thus isolated a product having bp 75° - 115°/10 Torr. The vapour phase chromatography analysis showed that the isolated product contained 50% of a 60 : 40 (parts by weight) mixture of cis and trans isomers of the desired alcohol.

reactant | 4-isopropenyl-cyclohex-1-enylmethanol | 10 g | C(=C)(C)C1CC=C(CC1)CO | C10H16O
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Raney nickel | 200 mg | [Ni] | Ni
product | 4-Isopropyl-cyclohexylmethanol | C(C)(C)C1CCC(CC1)CO | C10H20O
